US04560692
(c) 4,6-Dichloroquinoline
From 93.6 g of 6-chloro-4-hydoxyquinoline and 200 ml of phosphorus oxychloride reacted in a manner similar to that described in Example 2(b) there was obtained 63.6 g of the above named compound as white needles, mp 101°-104°.

reactant | 6-chloro-4-hydoxyquinoline | 93.6 g | ClC=1C=C2C(=CC=NC2=CC1)O | C9H6ClNO
reactant | phosphorus oxychloride | 200 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 4,6-Dichloroquinoline | ClC1=CC=NC2=CC=C(C=C12)Cl | C9H5Cl2N
